US09359375B2
To a solution of the crude tert-butyl (1S,2R)-2-(5-cyano-3-fluoro-6-(3-methylisoxazol-5-ylamino)pyridin-2-ylamino)cyclohexylcarbamate in EtOH (2 mL) and DMSO (2 mL), aq. 1N NaOH (1 mL) and aq. H2O2 (50%, 1 mL) were added. The mixture was stirred at room temperature for 15 min. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo to give crude tert-butyl (1S,2R)-2-(5-carbamoyl-3-fluoro-6-(3-methylisoxazol-5-ylamino)pyridin-2-ylamino)cyclohexylcarbamate, which was then dissolved in TFA (4 mL). After 10 min, excess TFA was removed in vacuo. The residue was purified by HPLC to give the titled compound (18 mg). MS 349.3 (M+H); UV 201.0, 259.0, 295.8, 333.5 nm; t 0.450 min.

reactant | tert-butyl (1S,2R)-2-(5-cyano-3-fluoro-6-(3-methylisoxazol-5-ylamino)pyridin-2-ylamino)cyclohexylcarbamate | C(#N)C=1C=C(C(=NC1NC1=CC(=NO1)C)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)F | C21H27FN6O3
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | H2O2 | 1 mL | OO | H2O2
reactant | Water | O | H2O
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (1S,2R)-2-(5-carbamoyl-3-fluoro-6-(3-methylisoxazol-5-ylamino)pyridin-2-ylamino)cyclohexylcarbamate | C(N)(=O)C=1C=C(C(=NC1NC1=CC(=NO1)C)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)F | C21H29FN6O4
